US04659862
6-Chloro-1,2,3,4-tetrahydrocarbazole
The reduction can also be carried out using Fe/acetic acid. A mixture of 0.784 g of iron, 1.62 mL of glacial acetic acid, 0.544 g of sodium acetate, and 1 g of 2-(5-chloro-2-nitrophenyl)cyclo-hexanone was refluxed in 80 mL of 4:1 (v/v) ethanol/water for 2 hr. The mixture was cooled, ethanol was evaporated, and the residue was extracted into methylene chloride. Work-up followed by column chromatography on silica yielded 0.160 g (20%) of the named product.

reactant | acetic acid | 1.62 mL | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 0.544 g | C(C)(=O)[O-].[Na+]
reactant | 2-(5-chloro-2-nitrophenyl)cyclo-hexanone | 1 g | ClC=1C=CC(=C(C1)C1C(CCCC1)=O)[N+](=O)[O-] | C12H12ClNO3
solvent | ethanol water | 80 mL | C(C)O.O
catalyst | Fe acetic acid | [Fe].C(C)(=O)O
catalyst | iron | 0.784 g | [Fe] | Fe
product | 6-Chloro-1,2,3,4-tetrahydrocarbazole | 0.160 g, 20% | ClC=1C=C2C=3CCCCC3NC2=CC1 | C12H12ClN
